US06451795B1
1.3. Ethyl 7-chloro-3-(3-chlorophenyl)-5-methyl-4-oxo-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-carboxylate
7.0 g (39.1 mmol) of 3-chlorophenylhydrazine hydrochloride are dissolved in 50 ml of water and 5 ml of a 35% sodium hydroxide solution. Extraction is carried out with diethyl ether. The organic phase is dried over sodium sulphate, filtered and concentrated under reduced pressure. An oil is obtained, to which are added 100 ml of acetic acid and 4.0 g (12.35 mmol) of ethyl 6-chloro-2-(ethoxycarbonyl)-1-methyl-α-oxo-1H-indole-3-acetate. The reaction mixture is stirred for 30 min at room temperature and then for 6 h at reflux. The mixture is cooled, 100 ml of water are added and an insoluble material is collected by filtration, washed with water and purified by chromatography on a silica column (eluant: dichloromethane/ethyl acetate: 98/2). 4.59 g (11 mmol) of compound are isolated in the form of a white solid.

reactant | 3-chlorophenylhydrazine hydrochloride | 39.1 mmol, 7.0 g | Cl.ClC=1C=C(C=CC1)NN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | ethyl 6-chloro-2-(ethoxycarbonyl)-1-methyl-α-oxo-1H-indole-3-acetate | 12.35 mmol, 4.0 g | ClC1=CC=C2C(=C(N(C2=C1)C)C(=O)OCC)C(C(=O)OCC)=O | C16H16ClNO5
solvent | water | 50 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | Ethyl 7-chloro-3-(3-chlorophenyl)-5-methyl-4-oxo-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-carboxylate | 11 mmol, 4.59 g | ClC=1C=CC=2C3=C(N(C2C1)C)C(N(N=C3C(=O)OCC)C3=CC(=CC=C3)Cl)=O | C20H15Cl2N3O3
